US05563163
2-Benzyl-4-isopropyl-6-oxo-tetrahydrosaccharin of preparation 21 is reduced with sodium borohydride and methylated with methyl iodide in the presence of sodium hydride to provide 2-benzyl-4-isopropyl-6-methoxy-tetrahydrosaccharin. This is debenzylated and chloromethylated as in preparation 21 to provide 2-chloromethyl-4-isopropyl-6-methoxy-4,5,6,7-tetrahydrosaccharin.

reactant | 2-Benzyl-4-isopropyl-6-oxo-tetrahydrosaccharin | C(C1=CC=CC=C1)N1S(=O)(=O)C2CC(CC(C2C1=O)C(C)C)=O | C17H21NO4S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
product | 2-benzyl-4-isopropyl-6-methoxy-tetrahydrosaccharin | C(C1=CC=CC=C1)N1S(=O)(=O)C2=CC(CC(C2C1=O)C(C)C)OC | C18H23NO4S
